US07595312B2
1a (4-amino-3-chloro-5-trifluoromethyl-phenyl)-methanol
69.56 g (0.43 mol) CDI were added to a solution of 93.4 g (0.39 mol) 4-amino-3-chloro-5-trifluoromethyl-benzoic acid (described in Arzneim.-Forsch. 1984, 34(11A), 1612-1624) in 1 L THF and the mixture was stirred for 1 h at 40° C. The reaction mixture was then carefully added to a solution of 51.4 g (1.36 mol) NaBH4 in 450 mL of water at RT under a nitrogen atmosphere and with cooling. The mixture was stirred for 2 h at RT, combined with 500 mL water and 300 mL semiconc. HCl, stirred for another hour and then exhaustively extracted with EtOAc. The combined org. phases were dried over Na2SO4 and evaporated down i. vac. The oil remaining was combined with 500 mL PE and stirred while cooling with ice. The precipitate was suction filtered, washed with PE and dried. 29.7 g of the desired product were obtained.

reactant | CDI | 0.43 mol, 69.56 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-amino-3-chloro-5-trifluoromethyl-benzoic acid | 0.39 mol, 93.4 g | NC1=C(C=C(C(=O)O)C=C1C(F)(F)F)Cl | C8H5ClF3NO2
reactant | NaBH4 | 1.36 mol, 51.4 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | water | 450 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | (4-amino-3-chloro-5-trifluoromethyl-phenyl)-methanol | 29.7 g | NC1=C(C=C(C=C1C(F)(F)F)CO)Cl | C8H7ClF3NO
